US07572794B2
To a stirred solution of morpholine (1.3 mL, 15 mmol) in isopropanol (30 mL) at rt was added trimethylsilylisocyanate (2.8 mL, 21 mmol) and the resulting solution stirred overnight before the volatiles were removed in vacuo to give morpholine-4-carboxylic acid amide (2.0 g, quant.) as a solid; 1H-NMR (300 MHz, d6-DMSO) 6.00 (2H, s), 3.51-3.54 (4H, s), 3.23-3.26 (4H, s).

reactant | morpholine | 15 mmol, 1.3 mL | N1CCOCC1 | C4H9NO
reactant | trimethylsilylisocyanate | 21 mmol, 2.8 mL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | morpholine-4-carboxylic acid amide | 2.0 g | N1(CCOCC1)C(=O)N | C5H10N2O2
